* Subcircuit 74LS169
.subckt 74LS169 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ unconnected-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ unconnected-_u1-pad16_ 
.title kicad schematic
.include 5_and.sub
.include 3_and.sub
.include 4_OR.sub
.include 4_and.sub
x10 net-_u21-pad1_ net-_u27-pad1_ net-_u23-pad3_ net-_u24-pad3_ net-_u25-pad3_ net-_x10-pad6_ 5_and
x3 net-_u23-pad3_ net-_u24-pad3_ net-_u25-pad3_ net-_u26-pad3_ net-_u14-pad2_ net-_u41-pad1_ 5_and
x7 net-_x2-pad5_ net-_u13-pad2_ net-_u22-pad2_ net-_x14-pad2_ 3_and
x9 net-_u39-pad3_ net-_u13-pad2_ net-_u20-pad2_ net-_x13-pad2_ 3_and
x8 net-_u19-pad1_ net-_u27-pad1_ net-_u23-pad3_ net-_u24-pad3_ net-_x13-pad1_ 4_and
* u7 net-_u13-pad2_ net-_u1-pad5_ net-_u7-pad3_ d_nor
* u8 net-_u13-pad2_ net-_u1-pad6_ net-_u8-pad3_ d_nor
* u26 net-_u21-pad3_ net-_u22-pad3_ net-_u26-pad3_ d_nor
* u25 net-_u19-pad3_ net-_u20-pad3_ net-_u25-pad3_ d_nor
* u22 net-_u12-pad1_ net-_u22-pad2_ net-_u22-pad3_ d_and
* u21 net-_u21-pad1_ net-_u12-pad2_ net-_u21-pad3_ d_and
* u20 net-_u12-pad1_ net-_u20-pad2_ net-_u20-pad3_ d_and
* u19 net-_u19-pad1_ net-_u12-pad2_ net-_u19-pad3_ d_and
* u18 net-_u12-pad1_ net-_u18-pad2_ net-_u18-pad3_ d_and
* u17 net-_u17-pad1_ net-_u12-pad2_ net-_u17-pad3_ d_and
* u4 net-_u1-pad2_ net-_u4-pad2_ d_inverter
* u2 net-_u1-pad1_ net-_u12-pad1_ d_inverter
* u6 net-_u13-pad2_ net-_u1-pad4_ net-_u6-pad3_ d_nor
* u5 net-_u13-pad2_ net-_u1-pad3_ net-_u5-pad3_ d_nor
* u3 net-_u1-pad9_ net-_u13-pad1_ d_inverter
* u31 net-_u27-pad2_ net-_u28-pad2_ net-_u31-pad3_ d_or
* u27 net-_u27-pad1_ net-_u27-pad2_ d_inverter
* u28 net-_u23-pad3_ net-_u28-pad2_ d_inverter
* u39 net-_u31-pad3_ net-_u36-pad2_ net-_u39-pad3_ d_or
* u36 net-_u24-pad3_ net-_u36-pad2_ d_inverter
x2 net-_u32-pad2_ net-_u33-pad2_ net-_u34-pad2_ net-_u35-pad2_ net-_x2-pad5_ 4_OR
* u32 net-_u27-pad1_ net-_u32-pad2_ d_inverter
* u34 net-_u24-pad3_ net-_u34-pad2_ d_inverter
* u35 net-_u25-pad3_ net-_u35-pad2_ d_inverter
* u33 net-_u23-pad3_ net-_u33-pad2_ d_inverter
* u11 net-_u1-pad10_ net-_u11-pad2_ d_inverter
* u10 net-_u1-pad7_ net-_u10-pad2_ d_inverter
* u9 net-_u13-pad1_ net-_u9-pad2_ d_inverter
* u12 net-_u12-pad1_ net-_u12-pad2_ d_inverter
* u13 net-_u13-pad1_ net-_u13-pad2_ d_inverter
x1 net-_u9-pad2_ net-_u10-pad2_ net-_u11-pad2_ net-_u27-pad1_ 3_and
* u14 net-_u1-pad10_ net-_u14-pad2_ d_inverter
* u30 net-_u23-pad3_ net-_u30-pad2_ d_inverter
* u37 net-_u29-pad2_ net-_u30-pad2_ net-_u37-pad3_ d_or
* u29 net-_u27-pad1_ net-_u29-pad2_ d_inverter
x6 net-_u37-pad3_ net-_u13-pad2_ net-_u18-pad2_ net-_x12-pad2_ 3_and
* u24 net-_u17-pad3_ net-_u18-pad3_ net-_u24-pad3_ d_nor
x4 net-_u38-pad2_ net-_u13-pad2_ net-_u16-pad2_ net-_x11-pad2_ 3_and
x5 net-_u17-pad1_ net-_u27-pad1_ net-_u23-pad3_ net-_x12-pad1_ 3_and
* u40 net-_u15-pad1_ net-_u27-pad1_ net-_u40-pad3_ d_and
* u38 net-_u27-pad1_ net-_u38-pad2_ d_inverter
* u23 net-_u15-pad3_ net-_u16-pad3_ net-_u23-pad3_ d_nor
* u16 net-_u12-pad1_ net-_u16-pad2_ net-_u16-pad3_ d_and
* u15 net-_u15-pad1_ net-_u12-pad2_ net-_u15-pad3_ d_and
* u41 net-_u41-pad1_ net-_u1-pad15_ d_inverter
* u45 net-_u45-pad1_ net-_u45-pad2_ d_inverter
x14 net-_x10-pad6_ net-_x14-pad2_ net-_u8-pad3_ unconnected-_x14-pad4_ net-_u45-pad1_ 4_OR
* u53 net-_u42-pad2_ net-_u49-pad2_ unconnected-_u53-pad3_ unconnected-_u53-pad4_ net-_u15-pad1_ net-_u16-pad2_ d_dff
* u42 net-_u42-pad1_ net-_u42-pad2_ d_inverter
x11 net-_u40-pad3_ net-_x11-pad2_ net-_u5-pad3_ unconnected-_x11-pad4_ net-_u42-pad1_ 4_OR
x12 net-_x12-pad1_ net-_x12-pad2_ net-_u6-pad3_ unconnected-_x12-pad4_ net-_u43-pad1_ 4_OR
* u51 net-_u44-pad2_ net-_u47-pad2_ unconnected-_u51-pad3_ unconnected-_u51-pad4_ net-_u19-pad1_ net-_u20-pad2_ d_dff
x13 net-_x13-pad1_ net-_x13-pad2_ net-_u7-pad3_ unconnected-_x13-pad4_ net-_u44-pad1_ 4_OR
* u43 net-_u43-pad1_ net-_u43-pad2_ d_inverter
* u44 net-_u44-pad1_ net-_u44-pad2_ d_inverter
* u49 net-_u4-pad2_ net-_u49-pad2_ d_inverter
* u50 net-_u43-pad2_ net-_u46-pad2_ unconnected-_u50-pad3_ unconnected-_u50-pad4_ net-_u17-pad1_ net-_u18-pad2_ d_dff
* u46 net-_u4-pad2_ net-_u46-pad2_ d_inverter
* u57 net-_u16-pad2_ net-_u1-pad14_ d_inverter
* u54 net-_u18-pad2_ net-_u1-pad13_ d_inverter
* u47 net-_u4-pad2_ net-_u47-pad2_ d_inverter
* u55 net-_u20-pad2_ net-_u1-pad12_ d_inverter
* u52 net-_u45-pad2_ net-_u48-pad2_ unconnected-_u52-pad3_ unconnected-_u52-pad4_ net-_u21-pad1_ net-_u22-pad2_ d_dff
* u48 net-_u4-pad2_ net-_u48-pad2_ d_inverter
* u56 net-_u22-pad2_ net-_u1-pad11_ d_inverter
a1 [net-_u13-pad2_ net-_u1-pad5_ ] net-_u7-pad3_ u7
a2 [net-_u13-pad2_ net-_u1-pad6_ ] net-_u8-pad3_ u8
a3 [net-_u21-pad3_ net-_u22-pad3_ ] net-_u26-pad3_ u26
a4 [net-_u19-pad3_ net-_u20-pad3_ ] net-_u25-pad3_ u25
a5 [net-_u12-pad1_ net-_u22-pad2_ ] net-_u22-pad3_ u22
a6 [net-_u21-pad1_ net-_u12-pad2_ ] net-_u21-pad3_ u21
a7 [net-_u12-pad1_ net-_u20-pad2_ ] net-_u20-pad3_ u20
a8 [net-_u19-pad1_ net-_u12-pad2_ ] net-_u19-pad3_ u19
a9 [net-_u12-pad1_ net-_u18-pad2_ ] net-_u18-pad3_ u18
a10 [net-_u17-pad1_ net-_u12-pad2_ ] net-_u17-pad3_ u17
a11 net-_u1-pad2_ net-_u4-pad2_ u4
a12 net-_u1-pad1_ net-_u12-pad1_ u2
a13 [net-_u13-pad2_ net-_u1-pad4_ ] net-_u6-pad3_ u6
a14 [net-_u13-pad2_ net-_u1-pad3_ ] net-_u5-pad3_ u5
a15 net-_u1-pad9_ net-_u13-pad1_ u3
a16 [net-_u27-pad2_ net-_u28-pad2_ ] net-_u31-pad3_ u31
a17 net-_u27-pad1_ net-_u27-pad2_ u27
a18 net-_u23-pad3_ net-_u28-pad2_ u28
a19 [net-_u31-pad3_ net-_u36-pad2_ ] net-_u39-pad3_ u39
a20 net-_u24-pad3_ net-_u36-pad2_ u36
a21 net-_u27-pad1_ net-_u32-pad2_ u32
a22 net-_u24-pad3_ net-_u34-pad2_ u34
a23 net-_u25-pad3_ net-_u35-pad2_ u35
a24 net-_u23-pad3_ net-_u33-pad2_ u33
a25 net-_u1-pad10_ net-_u11-pad2_ u11
a26 net-_u1-pad7_ net-_u10-pad2_ u10
a27 net-_u13-pad1_ net-_u9-pad2_ u9
a28 net-_u12-pad1_ net-_u12-pad2_ u12
a29 net-_u13-pad1_ net-_u13-pad2_ u13
a30 net-_u1-pad10_ net-_u14-pad2_ u14
a31 net-_u23-pad3_ net-_u30-pad2_ u30
a32 [net-_u29-pad2_ net-_u30-pad2_ ] net-_u37-pad3_ u37
a33 net-_u27-pad1_ net-_u29-pad2_ u29
a34 [net-_u17-pad3_ net-_u18-pad3_ ] net-_u24-pad3_ u24
a35 [net-_u15-pad1_ net-_u27-pad1_ ] net-_u40-pad3_ u40
a36 net-_u27-pad1_ net-_u38-pad2_ u38
a37 [net-_u15-pad3_ net-_u16-pad3_ ] net-_u23-pad3_ u23
a38 [net-_u12-pad1_ net-_u16-pad2_ ] net-_u16-pad3_ u16
a39 [net-_u15-pad1_ net-_u12-pad2_ ] net-_u15-pad3_ u15
a40 net-_u41-pad1_ net-_u1-pad15_ u41
a41 net-_u45-pad1_ net-_u45-pad2_ u45
a42 net-_u42-pad2_ net-_u49-pad2_ unconnected-_u53-pad3_ unconnected-_u53-pad4_ net-_u15-pad1_ net-_u16-pad2_ u53
a43 net-_u42-pad1_ net-_u42-pad2_ u42
a44 net-_u44-pad2_ net-_u47-pad2_ unconnected-_u51-pad3_ unconnected-_u51-pad4_ net-_u19-pad1_ net-_u20-pad2_ u51
a45 net-_u43-pad1_ net-_u43-pad2_ u43
a46 net-_u44-pad1_ net-_u44-pad2_ u44
a47 net-_u4-pad2_ net-_u49-pad2_ u49
a48 net-_u43-pad2_ net-_u46-pad2_ unconnected-_u50-pad3_ unconnected-_u50-pad4_ net-_u17-pad1_ net-_u18-pad2_ u50
a49 net-_u4-pad2_ net-_u46-pad2_ u46
a50 net-_u16-pad2_ net-_u1-pad14_ u57
a51 net-_u18-pad2_ net-_u1-pad13_ u54
a52 net-_u4-pad2_ net-_u47-pad2_ u47
a53 net-_u20-pad2_ net-_u1-pad12_ u55
a54 net-_u45-pad2_ net-_u48-pad2_ unconnected-_u52-pad3_ unconnected-_u52-pad4_ net-_u21-pad1_ net-_u22-pad2_ u52
a55 net-_u4-pad2_ net-_u48-pad2_ u48
a56 net-_u22-pad2_ net-_u1-pad11_ u56
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u7 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u8 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u26 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u25 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u17 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u6 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u5 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u31 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u28 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u39 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u36 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u32 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u34 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u35 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u33 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u30 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u37 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u29 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u24 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u40 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u38 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u23 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u16 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u41 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u45 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u53 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u42 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u51 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u43 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u44 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u49 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u50 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u46 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u57 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u54 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u47 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u55 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u52 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u48 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u56 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 74LS169