.title kicad schematic

.include 74ls175_ic.sub
* u3 d1 plot_v1
* u2 clk plot_v1
v3 d1 gnd pulse(0 5 0 1n 1n 750u 1500u)
v2 clk gnd pulse(0 5 0 1n 1n 1.25m 2.5m)
* u1 clr plot_v1
v1 clr gnd 5
* u4 clr clk d1 net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ adc_bridge_3
x1 net-_u4-pad4_ net-_u5-pad1_ net-_u5-pad2_ net-_u4-pad6_ unconnected-_x1-pad5_ unconnected-_x1-pad6_ unconnected-_x1-pad7_ unconnected-_x1-pad8_ net-_u4-pad5_ unconnected-_x1-pad10_ unconnected-_x1-pad11_ unconnected-_x1-pad12_ unconnected-_x1-pad13_ unconnected-_x1-pad14_ unconnected-_x1-pad15_ unconnected-_x1-pad16_ 74ls175_ic
* u5 net-_u5-pad1_ net-_u5-pad2_ q1 q1n dac_bridge_2
r2 q1n gnd 1k
* u7 q1n plot_v1
r1 q1 gnd 1k
* u6 q1 plot_v1
a1 [clr clk d1 ] [net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ ] u4
a2 [net-_u5-pad1_ net-_u5-pad2_ ] [q1 q1n ] u5
* Schematic Name:                             adc_bridge_3, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, Ngspice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 50e-06 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d1)
plot v(clk)
plot v(clr)
plot v(q1n)
plot v(q1)
.endc
.end
